US06239131B1
Preparation of 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-(2-pyridylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid
1-[1-(2-Toluoylmethy)-2-oxo-5-(2-pyridylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea (466 mg) was dissolved in methanol (22 ml), aqueous lithium hydroxide monohydrate (158 mg) solution (11 mg) and tetrahydrofuran (11 ml) were added, and the mixture was refluxed for one hour. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in water, the solution was washed with diethyl ether, acidified with 1N hydrochloric acid, and extracted with methylene chloride. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Isopropyl ether was added to the residue for trituration, collected by filtration, to thereby obtain 203 mg of the titled compound.

reactant | 1-[1-(2-Toluoylmethy)-2-oxo-5-(2-pyridylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(3-ethoxycarbonylphenyl)urea | 466 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)C2=NC=CC=C2)NC(=O)NC2=CC(=CC=C2)C(=O)OCC)=O)C | C35H33N5O6
reactant | lithium hydroxide monohydrate | 158 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | methanol | 22 ml | CO | CH4O
product | 3-[3-[1-(2-toluoylmethyl)-2-oxo-5-(2-pyridylcarbonyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]ureido]benzoic acid | 203 mg | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(=O)C2=NC=CC=C2)NC(NC=2C=C(C(=O)O)C=CC2)=O)=O)C | C33H29N5O6
